US09108921B2
Step C: (E)-tert-butyl 4-hydroxy-4-(4,4,4-trifluorobut-1-enyl)piperidine-1-carboxylate (44D)
To a mixture of (E)-tert-butyl 4-acetoxy-4-(4,4,4-trifluorobut-1-enyl)piperidine-1-carboxylate (200 mg, 0.57 mmol) in methanol (5 mL) was added 2M NaOH (2 mL, 4 mmol), the mixture was held stirring at r.t. for 16 hrs, when TLC (20% EA/PE) indicated completion of the reaction. The mixture was concentrated in vacuo, the residue was diluted with brine and extracted with EtOAc, and the organic layer was concentrated in vacuo to get the crude product, which was used directly for the next step.

reactant | (E)-tert-butyl 4-acetoxy-4-(4,4,4-trifluorobut-1-enyl)piperidine-1-carboxylate | 0.57 mmol, 200 mg | C(C)(=O)OC1(CCN(CC1)C(=O)OC(C)(C)C)\C=C\CC(F)(F)F | C16H24F3NO4
reactant | NaOH | 4 mmol, 2M, 2 mL | [OH-].[Na+]
reactant | EA | CC(OCC)=O | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | (E)-tert-butyl 4-hydroxy-4-(4,4,4-trifluorobut-1-enyl)piperidine-1-carboxylate | OC1(CCN(CC1)C(=O)OC(C)(C)C)\C=C\CC(F)(F)F | C14H22F3NO3
